US05093525
A solution of o-isopropylphenylcyanamide (1.13 g, 7.05 mmol), 1-naphthylamine hydrochloride (1.1 g, 7.04 mmol) and 1-aminonaphthalene (14.38 mg, 0.1 mmol) in chlorobenzene (20 ml) was heated to 150° C. for 4 hours and at room temperature for 10 hours. It was concentrated and the residue was partitioned between dichloromethane and 10% NaOH solution. The organic layer was concentrated and the resulting solid was recrystallized from EtOH - H2O (10:1) to give N-(1-naphthyl)-N'-(o-isopropylphenyl)guanidine (940 mg, 44%) as white crystals. mp 175°-177° C.

reactant | o-isopropylphenylcyanamide | 7.05 mmol, 1.13 g | C(C)(C)C1=C(C=CC=C1)NC#N | C10H12N2
reactant | 1-naphthylamine hydrochloride | 7.04 mmol, 1.1 g | Cl.C1(=CC=CC2=CC=CC=C12)N
solvent | chlorobenzene | 20 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | 1-aminonaphthalene | 0.1 mmol, 14.38 mg | NC1=CC=CC2=CC=CC=C12 | C10H9N
product | N-(1-naphthyl)-N'-(o-isopropylphenyl)guanidine | 940 mg, 44% | C1(=CC=CC2=CC=CC=C12)NC(=N)NC1=C(C=CC=C1)C(C)C | C20H21N3
